US04851387
856 mg of a sodium hydride dispersion (60% in oil) was washed three times with dry pentane under a nitrogen stream to separate the oil. After drying, the powder obtained was suspended in 7.2 ml of dry dimethylformamide under a nitrogen stream, and the suspension was cooled to 0° C. Then, 4.26 ml of ethyl diethylphosphonoacetate was dropwise added thereto over a period of one hour. The mixture was stirred at room temperature for 30 minutes and cooled to 0° C., and 5.4 g of 2-bromo-1-(2-tetrahydropyranyloxy)ethane was added thereto. The mixture was stirred at 65° C. overnight, and the reaction mixture was poured into 40 ml of water and extracted three times with 20 ml of ethyl acetate. The ethyl acetate layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was separated by silica gel column chromatography (60 g of Kieselgel 60) by using a mixture of hexane/ethyl acetate (5/1 followed by 1/1). The product-containing fraction was again purified by silica gel column chromatography (110 g of Kieselgel 60) by using a mixture of hexane/acetone (4/1) to obtain 2.55 g of ethyl 2-diethylphosphono-4-(2-tetrahydropyranyloxy)butanoate as a colorless oily substance.

reactant | ethyl diethylphosphonoacetate | 4.26 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 2-bromo-1-(2-tetrahydropyranyloxy)ethane | 5.4 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | water | 40 ml | O | H2O
solvent | dimethylformamide | 7.2 ml | CN(C=O)C | C3H7NO
product | ethyl 2-diethylphosphono-4-(2-tetrahydropyranyloxy)butanoate | 2.55 g | C(C)OP(=O)(OCC)C(C(=O)OCC)CCOC1OCCCC1 | C15H29O7P
